US08426408B2
2-(4-amino-1H-pyrazol-1-yl)ethanol
A solution of 2-(4-nitro-1H-pyrazol-1-yl)ethanol (1.08 g, 6.87 mmol) in methanol (34 ml) was evacuated and purged with nitrogen and treated with palladium on carbon (0.1 g, 0.094 mmol). The resulting black suspension was evacuated and purged with a hydrogen balloon and stirred under hydrogen overnight. The mixture was filtered through celite with methanol washes, and concentrated. The residue was flash chromatographed (50 mm; 9% methanol/methylene chloride w/0.1% NH4OH then 10% methanol/methylene chloride w/0.1% NH4OH) to afford the title compound.

reactant | 2-(4-nitro-1H-pyrazol-1-yl)ethanol | 6.87 mmol, 1.08 g | [N+](=O)([O-])C=1C=NN(C1)CCO | C5H7N3O3
solvent | methanol | 34 ml | CO | CH4O
catalyst | palladium on carbon | 0.094 mmol, 0.1 g | [Pd] | Pd
product | 2-(4-amino-1H-pyrazol-1-yl)ethanol | NC=1C=NN(C1)CCO | C5H9N3O
